US07494992B2
Preparation 170: (3aS,4R,6aR,7R,10R,10aR)-7-(2,2-dichloro-1-methylethenyl)-2, 2,5,10-tetramethyl-4,6a,7,8,9,10-hexahydro-3aH-naphtho[1,8a-d][1,3]dioxol-4-yl acetate
To dry lithium chloride (1.0 g) in tetrahydrofuran (45 ml) was added n-butyllithium (4.75 ml) at 0° C. under a nitrogen atmosphere. The mixture was stirred for 10 min and then cooled to −78° C. before adding diethylchloromethyl phosphonate (1.85 ml) in tetrahydrofuran (13 ml). After stirring for 10 min, carbon tetrachloride (1.15 ml) in tetrahydrofuran (13 ml) was added. After stirring for a further 10 min, a solution of 3aS,4R,6aS,7R,10S,10aS)-7-acetyl-2,2,5,10-tetramethyl-4,6a,7,8,9,10-hexahydro-3aH-naphtho[1,8a-d][1,3]dioxol-4-yl acetate (Preparation 148, 2 g) in tetrahydrofuran (13 ml) was added and the solution was stirred for 2 h at −78° C. After this time the mixture was quenched into water (50 ml) and extracted with diethyl ether (3×50 ml). The combined organic layers were dried (MgSO4) and concentrated in vacuo to give an orange oil. The oil was purified by flash, chromatography using a Biotage® cartridge (90 g) to give the title compound as a transparent oil (1.05 g, 45%).

reactant | lithium chloride | 1.0 g | [Cl-].[Li+]
reactant | n-butyllithium | 4.75 ml | C(CCC)[Li]
reactant | diethylchloromethyl phosphonate | 1.85 ml | P(OC(Cl)(CC)CC)([O-])=O
reactant | 7-acetyl-2,2,5,10-tetramethyl-4,6a,7,8,9,10-hexahydro-3aH-naphtho[1,8a-d][1,3]dioxol-4-yl acetate | 2 g | C(C)(=O)OC1C(=CC2C(CCC(C23C1OC(O3)(C)C)C)C(C)=O)C | C19H28O5
reactant | carbon tetrachloride | 1.15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
product | (3aS,4R,6aR,7R,10R,10aR)-7-(2,2-dichloro-1-methylethenyl)-2, 2,5,10-tetramethyl-4,6a,7,8,9,10-hexahydro-3aH-naphtho[1,8a-d][1,3]dioxol-4-yl acetate | 1.05 g, 45% | C(C)(=O)O[C@@H]1C(=C[C@@H]2[C@@H](CC[C@H]([C@]23[C@H]1OC(O3)(C)C)C)C(=C(Cl)Cl)C)C | C20H28Cl2O4
